US08541417B2
To a suspension of 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one (90.00 mg, 0.418 mmol), N-methyl-4-(piperazin-1-yl)benzamide (115 mg, 0.523 mmol) and (cyanomethyl)trimethylphosphonium iodide (163 mg, 0.669 mmol) in Propiononitrile (Volume: 2.00 mL) was added N-ethyl-N-isopropylpropan-2-amine (0.364 mL, 2.091 mmol) at 23° C. The reaction was stirred at 95° C. for 2 hr. The suspension was cooled to 40° C., filtered warm, rinsed with ACN (3×1 mL) and dried in vacuo to provide N-methyl-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide (0.152 g, 0.365 mmol, 87% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.52-2.58 (m, 4 H) 2.74 (d, J=4.55 Hz, 3 H) 3.20-3.31 (m, 4 H) 3.62 (s, 2 H) 6.71-6.77 (m, 1 H) 6.94 (d, J=8.84 Hz, 2 H) 7.08 (dd, J=3.54, 1.52 Hz, 1 H) 7.58 (d, J=1.77 Hz, 1 H) 7.68 (dd, J=3.03, 1.77 Hz, 1 H) 7.70 (d, J=8.84 Hz, 2 H) 8.14 (q, J=4.21 Hz, 1 H) 8.36 (d, J=1.77 Hz, 1 H) 11.61 (br. s., 1 H). ESI-MS: m/z 417.4 (M+H)+. mp=285.6-288.6° C.

reactant | 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one | 0.418 mmol, 90.00 mg | OCC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1 | C11H9N3O2
reactant | N-methyl-4-(piperazin-1-yl)benzamide | 0.523 mmol, 115 mg | CNC(C1=CC=C(C=C1)N1CCNCC1)=O | C12H17N3O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.669 mmol, 163 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.091 mmol, 0.364 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | Propiononitrile | 2.00 mL | C(CC)#N | C3H5N
product | N-methyl-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide | 0.365 mmol, 0.152 g, 87% yield | CNC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1)=O | C23H24N6O2
